US06028096
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethoxyphenyl)-4-trimethylsilylethynylpyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethoxyphenyl)-4-iodopyrazole (5.489 g) in dimethylformamide (4 ml) at room temperature was added trimethylsilylacetylene (3.35 ml), cuprous iodide (0.116 g), bis(triphenylphosphine)palladium(II) chloride (0.228 g) and triethylamine (1 ml). The mixture was heated at 60° C. for 2.5 hours. Trimethylsilylacetylene (1.675 ml), cuprous iodide (0.058 g) and bis(triphenylphosphine)palladium(II) chloride (0.114 g) were then added and stirring and heating was continued for a further period of one hour. The cooled reaction mixture was diluted with water and extracted with ether. The ether extract was dried (MgSO4) and evaporated to give the crude product which was purified by column chromatography on silica gel eluted with dichloromethane/hexane. Combination and evaporation of suitable fractions followed by recrystallisation of their residue from dichloromethane/hexane provided the title compound as a pale yellow solid, m.p. 151.5-152.1° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethoxyphenyl)-4-iodopyrazole | 5.489 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)OC(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4O
reactant | trimethylsilylacetylene | 3.35 ml | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | Trimethylsilylacetylene | 1.675 ml | C[Si](C)(C)C#C | C5H10Si
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.228 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.114 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethoxyphenyl)-4-trimethylsilylethynylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)OC(F)(F)F)Cl)C#N)C#C[Si](C)(C)C | C16H13Cl2F3N4OSi
